US05554620
To m-methoxyacetophenone (100 g, 0.665 mol) in 400 mL of methanol was added with cooling sodium borohydride (30.22 g, 0.799 mol) over a period of 1 h and the mixture was stirred, poured into ice-water, and neutralized with conc. HCl. The above mixture was extracted with ether (3×400 mL), the organic layer was dried over sodium sulfate, and concentrated. The residue was then distilled (149°-151° C. @ 25 mm)(short path column) to afford 95.6 g (94%) of m-methoxy-1-methyl-benzyl alcohol as a clear oil.

reactant | m-methoxyacetophenone | 0.665 mol, 100 g | COC=1C=C(C=CC1)C(C)=O | C9H10O2
reactant | sodium borohydride | 0.799 mol, 30.22 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
reactant | methanol | 400 mL | CO | CH4O
product | m-methoxy-1-methyl-benzyl alcohol | 95.6 g, 94% | COC=1CC(CO)(C=CC1)C | C9H14O2
